US05239084
35 mL of nitrobenzene were cooled in an ice bath and then treated in succession with 5.2 g of aluminium chloride and 5.0 g of 4-methylbiphenyl. The mixture was brought to room temperature and then treated slowly with 7.7 g of 2,4-dichlorobenzoyl chloride. The mixture was stirred at room temperature overnight, poured into water and extracted with methylene chloride. The extracts were washed with 2N hydrochloric acid and water, dried over magnesium sulphate and evaporated. The residue was chromatographed on silica gel with toluene/ethyl acetate 9:1. There were obtained 6.7 g (63%) of 2,4-dichlorophenyl 4'-methyl-4-biphenylyl ketone as a colorless solid with a m.p. of 184°-185° C.

reactant | nitrobenzene | 35 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | aluminium chloride | 5.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-methylbiphenyl | 5.0 g | CC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12
reactant | 2,4-dichlorobenzoyl chloride | 7.7 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | water | O | H2O
product | 2,4-dichlorophenyl 4'-methyl-4-biphenylyl ketone | 6.7 g, 63% | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1=C(C=C(C=C1)Cl)Cl | C20H14Cl2O
